US08049013B2
2-(4-Chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid methyl ester
Dissolve 2-(4-chloro-phenyl)-6,7-dihydro-pyrano[4,3-d]thiazol-4-one (500 g, 1882 mmol) in MeOH (5 L) and add concentrated sulfuric acid (31 mL). Stir the solution at 55° C. for 15 h, then warm to 66° C. and continue stirring for an additional 4.5 h. Cool the solution to 45° C. and concentrate in vacuo to one half of the volume. Continue to cool the slurry to 20° C. Isolate the precipitate by filtration and wash the solid with cold MeOH. Dry the solid (420.5 g) under vacuum overnight. Concentrate the filtrate to about 600 mL, filter, and wash with cold MeOH to obtain more solid (40.7 g). Purify the crude materials by flash chromatography, using 10% EtOAc/CH2Cl2 as eluent, to give a total of (442 g, 80%) of the title compound. 1H NMR (400 MHz, CDCl3): δ 7.88 (dt, J=8.8, 4.7 Hz, 2H), 7.43 (dt, J=8.7, 4.3 Hz, 2H), 4.05 (t, J=5.6 Hz, 2H), 3.90 (s, 3H), 3.43 (t, J=5.6 Hz, 2H), 3.32 (bs, 1H).

reactant | 2-(4-chloro-phenyl)-6,7-dihydro-pyrano[4,3-d]thiazol-4-one | 1882 mmol, 500 g | ClC1=CC=C(C=C1)C=1SC2=C(N1)CCOC2=O | C12H8ClNO2S
reactant | sulfuric acid | 31 mL | S(O)(O)(=O)=O | H2O4S
reactant | MeOH | 5 L | CO | CH4O
product | 2-(4-Chloro-phenyl)-4-(2-hydroxy-ethyl)-thiazole-5-carboxylic acid methyl ester | 40.7 g | COC(=O)C1=C(N=C(S1)C1=CC=C(C=C1)Cl)CCO | C13H12ClNO3S
